US05750717
(B) Phenylacetohydroximoyl chloride
Phenylacetaldehyde oxime (40.5 g, 300 mmol) was dissolved in acetonitrile (100 ml). To the solution, a 6.7% aqueous hydrochloric acid (145 g) and then an 8.5% aqueous sodium hypochlorite (262 g, 299 mmol) were added dropwise at -10° C. over 2.3 hours. The mixture was stirred at -5° C. for 30 minutes and then combined with toluene (200 ml) for extraction. The separated organic layer was washed twice with water (200 ml). Reversed phase HPLC revealed that the extract contained 40.3 g (238 mmol, yield 79%) of the desired compound. The solution was used in the next step without concentration.

reactant | Phenylacetaldehyde oxime | 300 mmol, 40.5 g | C1(=CC=CC=C1)CC=NO | C8H9NO
reactant | hydrochloric acid | 145 g | Cl | ClH
reactant | sodium hypochlorite | 299 mmol, 262 g | Cl[O-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Phenylacetohydroximoyl chloride | 238 mmol, 40.3 g, yield 79% | C1(=CC=CC=C1)CC(=NO)Cl | C8H8ClNO
